US07598384B2
2-Chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one
In analogy to (Shanazarov, A. K.; Kuzovkin, V. A.; Chistjakov, V. V.; Granik, V. G. Khim. Geterotsikl. Soedin. 1991, (1) 86-92) 7,7-dimethyl-7,8-dihydro-1H,6H-quinoline-2,5-dione was treated with phosphoryl chloride (POCl3) to give the title compound as a gray solid in 60% yield.

reactant | 7,7-dimethyl-7,8-dihydro-1H,6H-quinoline-2,5-dione | CC1(CC(C=2C=CC(NC2C1)=O)=O)C | C11H13NO2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one | 60% yield | ClC1=NC=2CC(CC(C2C=C1)=O)(C)C | C11H12ClNO
